US07157454B2
A) Benzhydrylidenepyrid-3-ylmethylamine
1.7 ml of 3-(aminomethyl)pyridine are added to a solution of 2.8 ml of benzophenoneimine in 50 ml of DCM, and the mixture is stirred overnight at RT. A further 0.28 ml of benzophenoneimine is added and the mixture is stirred for 2 hours at RT. The reaction mixture is concentrated under vacuum, the residue is extracted with ether, the organic phase is washed with water and with saturated NaCl solution and dried over Na2SO4, and the solvent is evaporated off under vacuum. 4.56 g of the expected product are obtained.

reactant | 3-(aminomethyl)pyridine | 1.7 ml | NCC=1C=NC=CC1 | C6H8N2
reactant | benzophenoneimine | 2.8 ml | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | benzophenoneimine | 0.28 ml | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | Benzhydrylidenepyrid-3-ylmethylamine | 4.56 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NCC=1C=NC=CC1 | C19H16N2
